US05368971
zinc 3,5-diisopropyl-2-methoxybenzoate (compound No. 2)
Five parts of 3,5-diisopropyl-2-methoxybenzoic acid was dissolved in 80 parts of methyl alcohol, followed by the addition of an aqueous solution of 1.3 parts of 96% potassium hydroxide in 10 parts of water. The resulting mixture was heated to 60° C. An aqueous solution of 3.2 parts of zinc sulfate heptahydrate in 10 parts of water was dropped into the resulting mixture over a period of 15 minutes. After the completion of the dropping, the obtained mixture was stirred at that temperature for 2 hours, cooled to a room temperature and filtered to recover a white crystalline precipitate. This precipitate was dispersed in 60 parts of water, washed therewith and filtered. The obtained filter cake was dried to give 4.8 parts of a white crystal. The melting point thereof was 104 to 107° C.

reactant | 3,5-diisopropyl-2-methoxybenzoic acid | C(C)(C)C=1C(=C(C(=O)O)C=C(C1)C(C)C)OC | C14H20O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | zinc sulfate heptahydrate | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Zn+2]
solvent | methyl alcohol | CO | CH4O
product | zinc 3,5-diisopropyl-2-methoxybenzoate | C(C)(C)C=1C(=C(C(=O)[O-])C=C(C1)C(C)C)OC.[Zn+2].C(C)(C)C=1C(=C(C(=O)[O-])C=C(C1)C(C)C)OC | InChI=1S/2C14H20O3.Zn/c2*1-8(2)10-6-11(9(3)4)13(17-5)12(7-10)14(15)16;/h2*6-9H,1-5H3,(H,15,16);/q;;+2/p-2
